* 1 and 2 = in, 3 = sel+, 4 = sel-
.subckt TMUX1511-SW 1 2 3 4
* Using the switch model introduces excessive noise based on Roff=1Gig even
* when the switch is on...  Thus 'if' is used instead; initial switch models
* below as reference - no hysteresis required since simulations are static.
.model switch1 sw(Vt=1.2 Ron=4.5 Roff=1Gig)
.model switch2 sw(Vt=1.2 Ron=1Gig Roff=10m)

R1 1 2 {if(v(3,4)<1.2,1Gig,4.5)}
C1 1 2 4p
R2 1 5 {if(v(3,4)<1.2,10m,1Gig)} noisy=0
C2 5 2 2p
I1 1 2 dc 100n
R2 3 4 6Meg

.ends TMUX1511-SW
